US09079889B2
To a solution of (E)-methyl 6-(2-fluoro-5-(prop-1-enyl)phenyl)-picolinate (1.0 equiv.) in MeOH (0.04 M) was 10% Pd/C (0.5 equiv.) and the reaction was placed under an atmosphere of hydrogen and left stirring overnight. The mixture was filtered over a pad of Celite and washed with MeOH. The filtrate was concentrated in vacuo to provide methyl 6-(2-fluoro-5-propylphenyl)picolinate as a light grey oil in 97% yield. LC/MS=274.2 (M+H), Rt=0.61 min.

reactant | (E)-methyl 6-(2-fluoro-5-(prop-1-enyl)phenyl)-picolinate | 1.0 equiv. | FC1=C(C=C(C=C1)\C=C\C)C1=CC=CC(=N1)C(=O)OC | C16H14FNO2
solvent | MeOH | 0.04 M | CO | CH4O
catalyst | Pd/C | 0.5 equiv. | [Pd] | Pd
product | methyl 6-(2-fluoro-5-propylphenyl)picolinate | 97% yield | FC1=C(C=C(C=C1)CCC)C1=CC=CC(=N1)C(=O)OC | C16H16FNO2
